US04640913
2-Methyl-α-[[4-(tetradecyloxy)phenyl]methyl]-1,3-dioxolane-2-propanoic acid, ethyl ester
A mixture of about 33 g of 1-(bromomethyl)-4-(tetradecyloxy)benzene, about 16.2 g of ethyl levulinate ethylene ketal, about 4.54 g of about 50% sodium hydride and about 350 ml of tetrahydrofuran was refluxed with stirring, under argon for about 18 hours and then filtered through celite. The solvent was removed and the residue was dissolved in ether. The ether solution was washed with aqueous monobasic sodium phosphate, dried and the solvent removed. The residue was subjected to high performance liquid chromatography (HPLC), using the system hexane:ethyl acetate (about 9:1), giving about 22.1 g of the desired title compound as a light yellow oil).

reactant | 1-(bromomethyl)-4-(tetradecyloxy)benzene | about 33 g | BrCC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C21H35BrO
reactant | ethyl levulinate ethylene ketal | about 16.2 g | C1COC(CCC(=O)OCC)(C)O1 | C9H16O4
reactant | sodium hydride | about 4.54 g | [H-].[Na+]
solvent | tetrahydrofuran | about 350 ml | O1CCCC1 | C4H8O
product | 2-Methyl-α-[[4-(tetradecyloxy)phenyl]methyl]-1,3-dioxolane-2-propanoic acid, ethyl ester | about 22.1 g | CC1(OCCO1)CC(C(=O)OCC)CC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C30H50O5
